US09216968B2
Methyl 2-[(dimethylamino)methyl]-6-nitro-1H-benzimidazole-4-carboxylate
To a solution of methyl 2-(chloromethyl)-6-nitro-1H-benzimidazole-4-carboxylate (72 mg) in acetonitrile (3 mL), was added 2M dimethylamine/MeOH solution (1.3 mL), and the mixture was stirred at 80° C. overnight.

reactant | methyl 2-(chloromethyl)-6-nitro-1H-benzimidazole-4-carboxylate | 72 mg | ClCC1=NC2=C(N1)C=C(C=C2C(=O)OC)[N+](=O)[O-] | C10H8ClN3O4
reactant | dimethylamine MeOH | 2M, 1.3 mL | CNC.CO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | Methyl 2-[(dimethylamino)methyl]-6-nitro-1H-benzimidazole-4-carboxylate | CN(C)CC1=NC2=C(N1)C=C(C=C2C(=O)OC)[N+](=O)[O-] | C12H14N4O4
